US07772245B2
To a solution of methyl-2-(7-bromo-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate (0.360 g, 0.93 mmol) in THF:H20 (4:1) were added Cs2CO3 (2.42 g, 7.44 mmol) and 3-formylphenylboronic acid (0.27 g, 1.86 mmol). The reaction mixture was thoroughly degassed and freshly prepared tetrakis(triphenylphosphine)palladium(0) (0.268 g, 0.23 mmol) was added under nitrogen atmosphere at room temperature. The reaction mixture temperature was raised to 80° C. and continued stirring for 12 hr. The progress of the reaction was monitored by TLC and upon completion of the reaction the THF was removed under reduced pressure. The mixture was partitioned between ethyl acetate (100 ml) and water (15 mL). The organic layer was separated, dried over Na2SO4 filtered and the solvent was removed under reduced pressure to give crude residue, which was purified by column chromatography using silica gel to provide methyl-2-{7-[3-(formyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate (0.15 g, 39.13%).

reactant | methyl-2-(7-bromo-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl)pyrimidine-5-carboxylate | 0.93 mmol, 0.360 g | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=C(C=CC23)Br)CC1 | C17H15BrN4O2
reactant | Cs2CO3 | 7.44 mmol, 2.42 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-formylphenylboronic acid | 1.86 mmol, 0.27 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.23 mmol, 0.268 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl-2-{7-[3-(formyl)phenyl]-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl}pyrimidine-5-carboxylate | 0.15 g, 39.13% | COC(=O)C=1C=NC(=NC1)N1CC2=C(NC=3C=C(C=CC23)C2=CC(=CC=C2)C=O)CC1 | C24H20N4O3
